US08802695B2
N-(3-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(2-hydroxypropan-2-yl)benzamide
In a 125 ml round bottom flask, 4-(2-hydroxypropan-2-yl)-N-(1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)benzamide (2.8 g, 9.05 mmol) was dissolved in DMF (25 ml). To this was added N-chlorosuccinimide (1.5 g, 11 mmol) and the mixture was stirred at 50° C. for 3 hours. The mixture was then poured into 50 ml water and then extracted with ethyl acetate (3×100 ml). Combined organic layers were dried over sodium sulfate and concentrated. The residue was purified by preparatory HPLC (RFA-mode: eluting with 25-55% ACN in water). Fractions containing the desired mono chlorinated product were combined and concentrated. To the residue was added saturated NaHCO3 and the aqueous mixture was extracted with ethyl acetate (2×100 ml). Combined organic layers were dried over sodium sulfate, filtered and concentrated to obtain the title compound (840 mg, 27% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.25-1.26 (m, 1H) 1.46 (s, 139H) 3.66-3.86 (m, 3H) 5.17 (s, 1H) 7.40-7.69 (m, 3H) 8.01 (d, J=8.59 Hz, 2H) 8.34 (s, 1H) 8.59 (s, 1H) 10.68 (s, 1H)

reactant | 4-(2-hydroxypropan-2-yl)-N-(1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)benzamide | 9.05 mmol, 2.8 g | OC(C)(C)C1=CC=C(C(=O)NC2=CC3=C(C=N2)C=CN3C)C=C1 | C18H19N3O2
reactant | N-chlorosuccinimide | 11 mmol, 1.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 50 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-(3-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(2-hydroxypropan-2-yl)benzamide | 840 mg, 27% yield | ClC1=CN(C2=C1C=NC(=C2)NC(C2=CC=C(C=C2)C(C)(C)O)=O)C | C18H18ClN3O2
